US09233098B2
1. Preparation of ethyl 2-[3-[4-(4-chlorobenzamido)benzyl]-1H-indazol-1-yl]acetate
220 mg (0.711 mmol) ethyl 2-[3-(4-aminobenzyl)-1H-indazol-1-yl]acetate was dissolved in 20 mL dichloromethane, and triethylamine 0.15 mL (1.08 mmol) was added. The system was placed in an ice bath, and 137 mg (0.78 mmol) p-chlorobenzoyl chloride was added slowly. Upon completion of addition, the reaction was monitored to be complete by TLC. Water was added, extracted with ethyl acetate, and separated by a preparative chromatography to obtain 100 mg a white solid, at a yield of 31.4%.

reactant | ethyl 2-[3-(4-aminobenzyl)-1H-indazol-1-yl]acetate | 0.711 mmol, 220 mg | NC1=CC=C(CC2=NN(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H19N3O2
reactant | triethylamine | 1.08 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzoyl chloride | 0.78 mmol, 137 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | Water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | ethyl 2-[3-[4-(4-chlorobenzamido)benzyl]-1H-indazol-1-yl]acetate | 100 mg, yield of 31.4% | ClC1=CC=C(C(=O)NC2=CC=C(CC3=NN(C4=CC=CC=C34)CC(=O)OCC)C=C2)C=C1 | C25H22ClN3O3
